US05519040
A mixture of 2-(1-hydroxy-2-(methoxymethoxy)ethyl)thiazole (0.93 mmol, 0.18 g), TBSCl (1.1 mmol, 0.17 g) and DBU (1.1 mmol, 0.16 mL) in THF (1 mL) was stirred at rt overnight. The reaction was diluted with water and extracted with ethyl ether, dried (MgSO4), filtered and concentrated. The residue was subjected to flash chromatography (10% ethyl acetate/hexane) to afford 0.20 g (70%) of 2-(1-(t-butyldimethylsiloxy)-2-(methoxymethoxy)ethyl)thiazole.

reactant | 2-(1-hydroxy-2-(methoxymethoxy)ethyl)thiazole | 0.93 mmol, 0.18 g | OC(COCOC)C=1SC=CN1 | C7H11NO3S
reactant | TBSCl | 1.1 mmol, 0.17 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | DBU | 1.1 mmol, 0.16 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(1-(t-butyldimethylsiloxy)-2-(methoxymethoxy)ethyl)thiazole | 0.20 g, 70% | O([Si](C)(C)C(C)(C)C)C(COCOC)C=1SC=CN1 | C13H25NO3SSi
